US05534515
5c. 7-Chloro-1-isobutyl-2-methyl-3-nitropyrrolo[2,3-d]pyridazine
16.0 g (71.5 mmol) of 7-chloro-1-isobutyl-2-methylpyrrolo[2,3-d]pyridazine are dissolved in portions at 0° C. with vigorous stirring in a mixture of 100 ml of fuming nitric acid and 50 ml of conc. sulfuric acid. The solution is stirred at room temperature for a further 4 h and subsequently introduced into 400 ml of ice-water. The mixture is then neutralized with 10 N sodium hydroxide solution and extracted with 3×250 ml of ethyl acetate. The organic extracts are dried over magnesium sulfate and concentrated. After crystallization from diisopropyl ether/ethyl acetate, 15.9 g (82%) of the title compound are isolated. M.p.: 96° C. (dec.).

reactant | 7-chloro-1-isobutyl-2-methylpyrrolo[2,3-d]pyridazine | 71.5 mmol, 16.0 g | ClC=1N=NC=C2C1N(C(=C2)C)CC(C)C | C11H14ClN3
reactant | sodium hydroxide | 10 N | [OH-].[Na+]
reactant | nitric acid | 100 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 7-Chloro-1-isobutyl-2-methyl-3-nitropyrrolo[2,3-d]pyridazine | ClC=1N=NC=C2C1N(C(=C2[N+](=O)[O-])C)CC(C)C | C11H13ClN4O2
